* C:\Users\rahim\Downloads\KiCad Projects\PCB_Business_Card\Antenna_Simulations\LTSpice_Equivalent_Circuit\NFC_LTSpice_Schematic.asc
V1 N003 0 SINE(0 5 10) AC 1 1
R1 N001 N003 1.17
L1 N002 N001 2.75µ
C1 N002 0 50p
R2 N002 0 100k
C2 N002 0 2p
C3 N002 0 0p
.ac lin 10000 12MEG 15MEG
* Rant
* Lant
* Cant
* NFC IC Equivalence
* NFC Antenna
* Tuning Capacitor
.backanno
.end
